US09233979B2
A solution of (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (30 mg, 0.088 mmol) in THF (1 ml) was charged with pyridine (72 μl, 0.890 mmol) and AcCl (62 μl, 0.872 mmol). The mixture was stirred at RT for 17 hr before 1N NaOH (1.2 ml, 1.200 mmol) was added and stirred at RT for 2 hr and then heated to 50° C. for 1 hr. The reaction was quenched with sat aq NH4Cl and extracted into EtOAc. The mixture was washed with sat aq NH4Cl followed by brine, dried over MgSO4, filtered, concentrated in vacuo and purified via flash chromatography (0-20% MeOH/DCM) to give (R)—N-(4-(methoxymethyl)-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide. MS ESI calc'd for C19H23N6O3 [M+H]+ 383. found 383. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 12.81 (s, 1H), 10.01 (s, 1H), 9.13 (s, 1H), 7.33 (m, 5H), 7.22 (m, 1H), 4.89 (t, J=6.8 Hz), 4.59 (s, 2H), 3.28 (s, 3H), 2.06 (s, 3H), 1.39 (d, 5.1 Hz).

reactant | (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.088 mmol, 30 mg | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)COC | C17H20N6O2
reactant | pyridine | 0.890 mmol, 72 μl | N1=CC=CC=C1 | C5H5N
reactant | AcCl | 0.872 mmol, 62 μl | C(=O)(C)Cl | C2H3ClO
reactant | NaOH | 1.200 mmol, 1N, 1.2 ml | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (R)—N-(4-(methoxymethyl)-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | COCC1=NC(=CC2=C1C(=NN2)NC(C)=O)NC(=O)N[C@H](C)C2=CC=CC=C2 | C19H22N6O3
